US05294734
11 g (63.1 mmol) of 4-ethoxycarbonylmethoxybutanal, 5.8 g (71.4 mmol) of dimethylammonium chloride and 5.5 ml (73.5 mmol) of a 37% solution of formaldehyde are stirred for 1 hour at a bath temperature of 110° C. The reaction mixture is allowed to cool and extracted three times with CH2Cl2The combined organic phases are dried over Na2SO4 and concentrated by evaporation giving 4-ethoxycarbonylmethoxy-2-methylene-butanal as a yellowish liquid which is further reacted without purification.

reactant | 4-ethoxycarbonylmethoxybutanal | 63.1 mmol, 11 g | C(C)OC(=O)COCCCC=O | C8H14O4
reactant | dimethylammonium chloride | 71.4 mmol, 5.8 g | [Cl-].C[NH2+]C
reactant | formaldehyde | C=O | CH2O
product | 4-ethoxycarbonylmethoxy-2-methylene-butanal | C(C)OC(=O)COCCC(C=O)=C | C9H14O4
